US08034558B2
N-(4-Fluorophenyl)anthranilic acid (0.70 gm; 3 mmol) and phosphorous oxychloride (3 ml) were stirred together and heated to 115° C. for 3.5 hours, then allowed to cool. The reaction mixture was placed on ice and small pieces of ice added, a vigorous reaction occurred with the evolution of hydrogen chloride. When the reaction had subsided, water (15 ml) was added and the mixture was boiled for 2 hours. On cooling, a solid precipitated out. This was filtered off and washed with water until the filtrate was colourless. The precipitate was further washed with cold methanol then diethyl ether and dried under vacuum to give 383 mg (59%) of 2-fluoroacridone.

reactant | N-(4-Fluorophenyl)anthranilic acid | 3 mmol, 0.70 gm | FC1=CC=C(C=C1)NC=1C(C(=O)O)=CC=CC1 | C13H10FNO2
reactant | phosphorous oxychloride | 3 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | hydrogen chloride | Cl | ClH
solvent | water | 15 ml | O | H2O
product | 2-fluoroacridone | 383 mg, 59% | FC1=CC=2C(C3=CC=CC=C3NC2C=C1)=O | C13H8FNO
